US06548494B1
7-Methyl-3,4-dihydro-2H-[1,4]diazepino[6,7,1-hi]indol-1-one
Acetic acid-1-oxo-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indole-7-ylmethyl ester (0.508 g, 1.97 mmol) was dissolved in MeOH (70 mL) and glacial AcOH (30 mL). To the solution was added 10% Pd/C (0.076 g) and the suspension was stirred under an atmosphere of H2 for 4.5 h at rt. The black suspension was filtered and the filtrate was concentrated to give a white solid, which was purified by flash silica gel chromatography eluting with a gradient of 0-1% MeOH in CHCl3 to give 0.296 g (75%) of the title compound: 1H NMR (DMSO-d6) δ 2.52 (s, 3H), 3.51-3.54 (m, 2H), 4.27-4.28 (m, 2H), 7.11 (t, 1H, J=7.5 Hz), 7.15 (s, 1H), 7.69 (d, 1H, J=7.5 Hz), 7.81 (d, 1H, J=7.5 Hz), 8.22-8.24 (m, 1H). HRMS calcd. for C12H12N2O (M+) 200.0950, found 200.0955. Anal. (C12H12N2O) C, H, N.

reactant | Acetic acid-1-oxo-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indole-7-ylmethyl ester | 1.97 mmol, 0.508 g | O=C1CNCC=2C=CC(=C3C=CN1C23)COC(C)=O | C14H14N2O3
reactant | AcOH | 30 mL | CC(=O)O | C2H4O2
solvent | MeOH | 70 mL | CO | CH4O
catalyst | Pd/C | 0.076 g | [Pd] | Pd
product | 7-Methyl-3,4-dihydro-2H-[1,4]diazepino[6,7,1-hi]indol-1-one | 0.296 g, 75% | CC1=C2C=CN3C2=C(C=C1)CNCC3=O | C12H12N2O
